US06399629B1
(A) 4-Phenylbenzyl Bromide
Triphenylphosphine (1.58 g) and N-bromosuccinimide (1.07 g) were added to a stirred solution of 4-hydroxymethylbiphenyl (1.01 g) in dichloromethane (10 mL) under nitrogen. The mixture was stirred at room temperature for 15 hr and evaporated in vacuo. The residue was diluted with chloroform, and washed with saturated sodium hydrogencarobonate, and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:100 to 1:50, v/v) to give the titled compound (1.26 g) as colorless crystals: 1H-NMR (400 MHz, CDCl3) δ 4.55 (s, 2H), 7.33-7.38 (m, 1H), 7.41-7.49 (m, 4H), and 7.54-7.60 (m, 4H).

reactant | Triphenylphosphine | 1.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-hydroxymethylbiphenyl | 1.01 g | OCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Phenylbenzyl Bromide | 1.26 g | C1(=CC=CC=C1)C1=CC=C(CBr)C=C1 | C13H11Br
